US05627182
b) 4-Benzyloxycarbonylaminobutyric acid N-(2-methoxyethyl)amide
5.02 g of 4-benzyloxycarbonylaminobutyric acid methyl ester are stirred under reflux in 35 ml of ethanol with 15 ml of 2-methoxyethylamine for 5 days. The reaction mixture is concentrated by evaporation and the residue is purified by means of FC (240 g of silica gel, dichloromethane/methanol=95:5). The title compound is obtained: Rf (dichloromethane/methanol=95:5)=0.33.

reactant | 4-benzyloxycarbonylaminobutyric acid methyl ester | 5.02 g | COC(CCCNC(=O)OCC1=CC=CC=C1)=O | C13H17NO4
reactant | 2-methoxyethylamine | 15 ml | COCCN | C3H9NO
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-Benzyloxycarbonylaminobutyric acid N-(2-methoxyethyl)amide | COCCNC(CCCNC(=O)OCC1=CC=CC=C1)=O | C15H22N2O4
